US07700148B2
Phosphorus oxychloride (13 ml, 21.5 g, 140 mmol) was added dropwise to a stirring mixture of N,N-dimethylformamide (5.40 ml, 5.10 g, 69.7 mmol) and 4,4′-bis(carbazol-9-yl)biphenyl (7.72 g, 16.0 mmol) and the resulting mixture was stirred at room temperature for 5 minutes then heated to 90° C. for 24 h. (nb reaction mixture was followed by TLC using 5% ethanol/dichloromethane as the eluent). The reaction mixture was poured into water (800 ml) and this beaker was placed in the ultrasonic bath for 2 hours to break up the material. The mixture was stirred for a further 2 hours then filtered. The residue was washed with water and then hexane and dried in vacuo for 2 hours. The crude product was heated with acetone (3×400 ml) and filtered. The product was insoluble in most organic solvent. The impurities were removed by washing with acetone. The product, 4,4′-bis(3-formyl-carbazol-9-yl)biphenyl, (7.92 g, 87%) was obtained with melting point 295° C. (dec.). Found: C, 81.74; H, 4.71; and N, 4.45. C38H28N2O2.(CH3)2CO requires C, 82.25; H, 5.05; N, 4.68%. 1H n.m.r. (300 MHz, Me2SO): δ 10.09 (2 H, s, CHO); 8.88 (2 H, d, J 0.88 Hz, aromatic H); 8.41 (2 H, d, J 7.61 Hz, aromatic H); 8.41 (4 H, d, J 8.49 Hz, aromatic H); 8.00 (2 H, dd, J 8.49, 1.46 Hz, aromatic H); 7.83 (4 H, d, J 8.49 Hz, aromatic H); 7.38-7.61 (8 H, m, aromatic H). λmax(CH2Cl2): 215 nm (ε/Lmol−1cm−1 9163), 241 (68 488), 272 (65 928), 294 (67 194) 328 (42 620). FT-IR (solid): 3045, 2825, 2730, 1682, 1623, 1591, 1505, 1456, 1438, 1365, 1319, 1275, 1230, 1180, 802, 745 cm−1.

reactant | Phosphorus oxychloride | 140 mmol, 13 ml, 21.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 69.7 mmol, 5.40 ml, 5.10 g | CN(C=O)C | C3H7NO
reactant | 4,4′-bis(carbazol-9-yl)biphenyl | 16.0 mmol, 7.72 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C36H24N2
reactant | ethanol dichloromethane | C(C)O.ClCCl
solvent | water | 800 ml | O | H2O
product | 4,4′-bis(3-formyl-carbazol-9-yl)biphenyl | 7.92 g, 87% | C(=O)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C38H24N2O2
